US08026257B2
(±)-1-(5-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethanol.
Methylmagnesium bromide (0.582 ml, 1.747 mmol) was added dropwise to a 0° C. solution of 5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-7-carbaldehyde (500 mg, 1.456 mmol) in tetrahydrofuran (10 ml). The reaction was stirred 30 min at 0° C. An additional portion of methylmagnesium bromide (0.58 ml, 1.75 mmol) was added. The reaction was stirred another 30 min, quenched by addition of water (10 mL), and extracted with ethyl acetate (3×10 ml). The combined organic layers were dried with magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel with a gradient of 5% to 40% ethyl acetate/hexanes to give 427 mg (82%) as a yellow liquid. 1H-NMR (CDCl3, 400 MHz) δ 7.84 (d, J=1.1 Hz, 1H), 7.62 (d, J=1.0 Hz, 1H), 7.18 (d, J=3.2 Hz, 1H), 6.59 (d, J=3.3 Hz, 1H), 5.74 (d, J=11.5 Hz, 1H), 5.68 (m, 1H), 5.59 (d, J=11.4 Hz, 1H), 3.44 (dd, J=8.4, 7.8 Hz, 2H), 1.69 (d, J=6.3 Hz, 3H), 0.87 (m, 2H), −0.10 (s, 9H); LC/MS (HPLC method 4): tR=3.743 min, 382.12(MH)+.

reactant | Methylmagnesium bromide | 1.747 mmol, 0.582 ml | C[Mg]Br
reactant | 5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-7-carbaldehyde | 1.456 mmol, 500 mg | FC(C=1C=C2C=CN(C2=C(C1)C=O)COCC[Si](C)(C)C)(F)F | C16H20F3NO2Si
reactant | methylmagnesium bromide | 1.75 mmol, 0.58 ml | C[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (±)-1-(5-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethanol | FC(C=1C=C2C=CN(C2=C(C1)C(C)O)COCC[Si](C)(C)C)(F)F | C17H24F3NO2Si
